US06136823
Synthesis of 6-Fluoro-1-(4-fluoro-3-hydroxyphenyl)-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
6,7-Difluoro-1-(4-fluoro-3-hydroxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (403 mg) and an aqueous solution (about 40%; 2.0 g) of methylamine were added to pyridine (2.0 g), and the mixture was stirred at 60° C. for 6 days. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (5 ml) to the residue and then concentrating the mixture under reduced pressure was conducted 3 times repeatedly. Ethanol (2 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (311 mg) as a colorless powder.

reactant | 6,7-Difluoro-1-(4-fluoro-3-hydroxyphenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 403 mg | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=CC(=C(C=C1)F)O)C(=O)O)=O | C17H10F3NO4
reactant | methylamine | 2.0 g | CN | CH5N
solvent | pyridine | 2.0 g | N1=CC=CC=C1 | C5H5N
product | 6-Fluoro-1-(4-fluoro-3-hydroxyphenyl)-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 311 mg | FC=1C=C2C(C(=CN(C2=C(C1NC)C)C1=CC(=C(C=C1)F)O)C(=O)O)=O | C18H14F2N2O4
